US05019350
Umbelliferone-4-Acetic Acid Fluorescent Polymers
20.0 g of poly(HEMA4.0 -MMA1) was dissolved in 500 cc THF plus acetone (3:2) at boiling (60° C.). 0.271 g CMU was added and stirred until dissolved. 0.245 g dicyclohexylcarbodiimide and 25 mg dimethylaminopyridine, each dissolved in THF, were added and the solution stirred for 3 hours at boiling (60° C.). The reaction solution was then work-up as described for i., giving a limegreen powder, weight 13.81 g (69% yield) of poly(HEMA4.0 -MMA1) with a theoretical molar substitution of 0.96% umbelliferone on HEMA monomer. Actual substitution was 0.53%.

reactant | acetone | CC(=O)C | C3H6O
reactant | dicyclohexylcarbodiimide | 0.245 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminopyridine | 25 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | umbelliferone | C1=CC2=C(C=C1O)OC(=O)C=C2 | C9H6O3
reactant | THF | 500 cc | C1CCOC1 | C4H8O
product | Umbelliferone-4-Acetic Acid | 69% yield | C1=CC2=C(C=C1O)OC(=O)C=C2CC(=O)O | C11H8O5
